US06440995B1
(RS)-1-Amino-3-[7-methoxy-2-(4-methoxy-phenyl)-quinolin-4-ylamino]-propan-2-ol hydrochloride
The title compound, m.p. 190-205° C. and MS: m/e=353 (M+), was prepared from 4-chloro-7-methoxy-2-(4-methoxy-phenyl)-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-7-methoxy-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C17H14ClNO2
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-[7-methoxy-2-(4-methoxy-phenyl)-quinolin-4-ylamino]-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC)O | InChI=1S/C20H23N3O3.ClH/c1-25-15-5-3-13(4-6-15)18-10-19(22-12-14(24)11-21)17-8-7-16(26-2)9-20(17)23-18;/h3-10,14,24H,11-12,21H2,1-2H3,(H,22,23);1H
